US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid was prepared in an analogous fashion from 2-(azetidin-1-ylcarbonyl)-5-bromopyridine and methyl 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]benzoate.

reactant | 2-(azetidin-1-ylcarbonyl)-5-bromopyridine | N1(CCC1)C(=O)C1=NC=C(C=C1)Br | C9H9BrN2O
reactant | methyl 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]benzoate | OC=1C=C(C(=O)OC)C=C(C1)O[C@H](COC)C | C12H16O5
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)O)C=C(C1)O[C@H](COC)C | C20H22N2O6
